US05037852
4-(2-nitrophenoxy)butanoic acid ethyl ester
Sodium hydride (16.5 9, content: 62.4%) was suspended in N,N-dimethylformamide (500 ml). 0-nitrophenol (60 g) dissolved in N,N-dimethylformamide (100 ml) was added dropwise into the mixture with stirring in ice-bath over about 20 mins. The mixture was stirred for 1 hr. at a room temperature. 4-bromobutanoic acid ethyl ester (84.2 g) dissolved in N,N-dimethylformamide (200 ml) was added to the mixture. The solution was stirred for 15 hrs at about 70° C. N,N-dimethylformamide was evaporated in vacuo. Ethyl acetate (800 ml) was added to the residue. The mixture was washed with a water and a saturated brine, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography on silica gel (n-hexane: ethyl acetate =5:1→3:1) to give the title compound (77.3 g) having the following physical data:

reactant | Sodium hydride | [H-].[Na+]
reactant | 0-nitrophenol | 60 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | 4-bromobutanoic acid ethyl ester | 84.2 g | C(C)OC(CCCBr)=O | C6H11BrO2
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-(2-nitrophenoxy)butanoic acid ethyl ester | 77.3 g | C(C)OC(CCCOC1=C(C=CC=C1)[N+](=O)[O-])=O | C12H15NO5
